US05374641
In argon atmosphere, 329 mg of N-[4-(4-methoxymethyloxyphenyl)-3-(3-pyridyl)butyl]-4-chlorobenzene sulfonamide was dissolved in 12 ml of dry tetrahydrofuran, and cooled to 0° C., followed by addition of 0.67 ml of the solution of 1.55M n-butyl lithium in hexane, which was then stirred for 30 minutes. At the same temperature, 116 mg of ethyl chlorocarbonate dissolved in 3 ml of dry tetrahydrofuran was added dropwise and stirred at room temperature for 24 hours. To the reaction mixture was added saturated aqueous sodium chloride, and the organic phase was separated which was then extracted with ethyl acetate. The organic phases combined were washed in saturated aqueous sodium chloride and dried over magnesium sulfate, so the solvent was distilled off under reduced pressure. The obtained residue was subjected to preparative silica gel TLC which was then developed with methanol-methylene chloride (4:96 v/v) to obtain 204 mg of N-ethoxycarbonyl-N-[4-(4-methoxymethyloxyphenyl)-3-(3-pyridyl)butyl]-4-chlorobenzene sulfonamide from a band of 0.36 to 0.53.

reactant | N-[4-(4-methoxymethyloxyphenyl)-3-(3-pyridyl)butyl]-4-chlorobenzene sulfonamide | 329 mg | COCOC1=CC=C(C=C1)CC(CCNS(=O)(=O)C1=CC=C(C=C1)Cl)C=1C=NC=CC1 | C23H25ClN2O4S
reactant | n-butyl lithium | 1.55M | C(CCC)[Li]
reactant | ethyl chlorocarbonate | 116 mg | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-ethoxycarbonyl-N-[4-(4-methoxymethyloxyphenyl)-3-(3-pyridyl)butyl]-4-chlorobenzene sulfonamide | 204 mg | C(C)OC(=O)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CCC(CC1=CC=C(C=C1)OCOC)C=1C=NC=CC1 | C26H29ClN2O6S
